US05719166
c. Ethyl 1-(9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate
A solution of 9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid (21.8 g, 92.4 mmol) in toluene (160 mL) was treated with thionyl chloride (11.7 g, 99 mmol) and N,N-dimethylformamide (0.1 g). The resulting solution was heated to reflux temperature for 2 h, then was cooled to room temperature. The mixture was then treated dropwise with a solution of ethyl isonipecotate (31.1 g, 198 mmol) in toluene (20 mL), using an ice/water bath to keep the reaction temperature <35° C. Upon complete addition, the mixture was stirred for 1 h at room temperature, then was washed sequentially with 10% hydrochloric acid (40 mL), water (40 mL), 1N aqueous sodium hydroxide (40 mL), water (40 mL) and brine (40 mL). The aqueous washes were extracted with toluene (100 mL). The organic extracts were combined, dried (MgSO4), filtered and concentrated to afford the title compound (33.0 g, 85.2 mmol, 92%) as an off-white solid. 1H NMR (d6-DMSO): δ7.33-7.14 (m, 4H), 6.99 (m, 4H), 4.54 (br, 1H), 4.38 (s, 1H, H--C(10)), 4.09 (q, J=6.5 Hz, 2H, CH2CH3), 3.8 (br, 1H), 3.0-2.5 (br, 6H), 2.05-1.45 (br, 5H), 1.19 (t, J=6.5 Hz, 3H, CH2CH3).

reactant | 9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid | 92.4 mmol, 21.8 g | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)O | C16H12O2
reactant | thionyl chloride | 99 mmol, 11.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl isonipecotate | 198 mmol, 31.1 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 0.1 g | CN(C=O)C | C3H7NO
product | Ethyl 1-(9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate | 85.2 mmol, 33.0 g, 92% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)N3CCC(CC3)C(=O)OCC | C24H25NO3
